US08871760B2
To a room temperature solution of triphenylphosphine dichloride (1.53 g (5.85 mmol) in methylene chloride was added iodine (1.481 g, 5.85 mmol). The mixture was stirred for fifteen minutes, then imidazole (663 mg, 9.74 mmol) was added. The mixture was stirred another 15 minutes, then [1-(4-fluoro-phenyl)-2-hydroxy-ethyl]carbamic acid tert-butyl ester (1.0 g, 3.9 mmol) was added. The mixture was heated to reflux for two hours, then stirred at room temperature overnight. Solvent was removed under reduced pressure, and the residue was partitioned between ethyl acetate and saturated aqueous sodium thiosulfate. The organic layer was separated, washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was chromatographed through silica (5-10% ethyl acetate/hexanes) to give 820 mg (58%) of [1-(4-fluoro-phenyl)-2-iodo-ethyl]-carbamic acid tert-butyl ester, MP=138-139° C.

reactant | triphenylphosphine dichloride | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | iodine | 5.85 mmol, 1.481 g | II | I2
reactant | imidazole | 9.74 mmol, 663 mg | N1C=NC=C1 | C3H4N2
reactant | [1-(4-fluoro-phenyl)-2-hydroxy-ethyl]carbamic acid tert-butyl ester | 3.9 mmol, 1.0 g | C(C)(C)(C)OC(NC(CO)C1=CC=C(C=C1)F)=O | C13H18FNO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [1-(4-fluoro-phenyl)-2-iodo-ethyl]-carbamic acid tert-butyl ester | 820 mg, 58% | C(C)(C)(C)OC(NC(CI)C1=CC=C(C=C1)F)=O | C13H17FINO2
